US08871756B2
N-[(1-Aminocyclobutyl)methyl]-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinazolin-4-amine
A mixture of N-[(1-benzylamino-cyclobutyl)methyl]-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinazolin-4-amine (220 mg, 0.417 mmol), 10% of palladium hydroxide on carbon (30 mg), and trifluoroacetic acid (160 μL) in methanol (20 mL) was stirred at room temperature for 24 hours under a hydrogen atmosphere. The resulting mixture was filtered, and the filtrate was adjusted to pH 8-9 by the addition of a solution of ammonia in methanol (7 M), and concentrated in vacuo. The residue was purified by preparative HPLC to give 105 mg of the product as a white solid. MS obsd. (ESI+) [(M+H)+] 438, 1H NMR (400 MHz, CD3OD) δ ppm 7.98 (d, J=7.6 Hz, 1 H), 7.86 (d, J=7.6 Hz, 1 H), 7.73 (s, 1 H), 7.60 (t, J=7.6 Hz, 1 H), 7.47-7.32 (m, 3 H), 5.33 (s, 2 H), 4.58 (brs, 2 H), 3.84 (s, 2 H), 3.53 (t, J=4.8 Hz, 2 H), 2.41 (s, 3 H), 2.21 (m, 2 H), 2.04-1.97 (m, 2 H), 1.91-1.82 (m, 2 H).

reactant | N-[(1-benzylamino-cyclobutyl)methyl]-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinazolin-4-amine | 0.417 mmol, 220 mg | C(C1=CC=CC=C1)NC1(CCC1)CNC1=NC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C30H33N5O2S
reactant | trifluoroacetic acid | 160 μL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | 30 mg | [OH-].[OH-].[Pd+2]
product | N-[(1-Aminocyclobutyl)methyl]-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinazolin-4-amine | 105 mg | NC1(CCC1)CNC1=NC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C23H27N5O2S
